US06624159B2
6-Oxo-6H-imidazo[4,5,1-ij]quinoline-5-carboxamides The preparation of specific examples of heterocycle W1.1 is described in Chart A. 2-Nitroaniline is iodinated with iodine monochloride to afford A.1 (Wilson, et.al., Aust. J. Chem., 1983, 36, 2317-2326) which is heated with diethyl ethoxymethylenemalonate in a mixture of diphenyl ether/biphenyl, initially at 150° C. to generate diethyl 2-[(2-amino-4-iodoanilino)methylene]malonate and then at 240° C. to cyclize this intermediate to ethyl 4-hydroxy-6-iodo-8-nitro-3-quinolinecarboxylate (A.2). Stannous chloride reduction of A.2 affords ethyl 8-amino-4-hydroxy-6-iodo-3-quinolinecarboxylate A.3 which reacts with 4-chlorobenzylamine to give 8-amino-N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide A.4. Intermediate A.4 reacts with ethyl orthoformate to give N-(4-chlorobenzyl)-8-iodo-6-oxo-6H-imidazo[4,5,1-ij]quinoline-5-carboxamide (A.5). Palladium mediated carbonylation of A.5 in presence of tributyl tin hydride or trioctylsilane (Kotsuki et. al., Synthesis 1996, 470) affords A.6 which is reductively aminated with morpholine and sodium cyanoborohydride to give A.7. Specific examples in which G=3-hydroxypropyl or 3-hydroxy-1-propynyl are prepared as described in Chart B. Palladium catalyzed coupling of A.5 with an electron-rich acetylene (e.g. propargyl alcohol, Z=CH2OH) gives B.1 (Sonogashira, K.; Tohada, Y.; Hagihara, N. Tetrahedron Lett. 1975, 50, 4467. or Fisher, M. J. et. al. J. Med. Chem. 1997, 40, 2085.). Saturation of the alkyne by hydrogenation catalyzed by palladium on carbon in alcoholic solvents affords alkyl derivatives of formula B.2 (Z=CH2OH).

reactant | 2-Nitroaniline | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | iodine monochloride | ICl | ClI
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diethyl 2-[(2-amino-4-iodoanilino)methylene]malonate | NC1=C(NC=C(C(=O)OCC)C(=O)OCC)C=CC(=C1)I | C14H17IN2O4
reactant | ethyl 4-hydroxy-6-iodo-8-nitro-3-quinolinecarboxylate | OC1=C(C=NC2=C(C=C(C=C12)I)[N+](=O)[O-])C(=O)OCC | C12H9IN2O5
reactant | ethyl 8-amino-4-hydroxy-6-iodo-3-quinolinecarboxylate | NC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)I | C12H11IN2O3
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | diphenyl ether biphenyl | C1(=CC=CC=C1)OC1=CC=CC=C1.C1(=CC=CC=C1)C1=CC=CC=C1
product | 8-amino-N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide | NC=1C=C(C=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O)I | C17H13ClIN3O2
